* C:\Users\Matija\Desktop\AutomatskoOsvetljenje\Automatsko-Osvetljenje\Simulation\lm317.asc
XU1 0 PIR Signal 3V3 N002 N001 N001 3V3 NE555
R1 3V3 PIR 10k
R 3V3 N001 1000k
C N001 0 10µ
C1 N002 0 10n
V1 VBAT 0 7.4
D4 N006 0 LXZ1-PL02
D8 N006 0 LXZ1-PL02
D9 N006 0 LXZ1-PL02
XU2 LM N006 N005 LM317 LM317
R13 N006 N005 16
V2 3V3 0 3.3
V4 PIR 0 PULSE(3.3 0 1 2n 2n 0.1 20)
XU3 N003 N004 0 TDTC114Y
R3 N004 Signal 1k
M1 LM N003 VBAT VBAT BSS84
R2 N003 VBAT 10k
R4 LM 0 10k
R5 N004 0 10k
R7 N006 0 750
C3 N006 0 10µ
R6 N006 N005 16
.model D D
.lib C:\Users\Matija\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Matija\AppData\Local\LTspice\lib\cmp\standard.mos
* T=1.1*R*C
* R100k\nC100u\nT=11s
.tran 15
* BATERIJA
* 167mW -> 0.167W
* 1.25/R13=I
* Potentiometer
* LM317
* STLQ50C33R
* AM312
.lib Contrib/Toshiba/BJT/TDTC114Y_enc.lib
.lib LM317.sub
.lib NE555.sub
.backanno
.end
