* D:\Projects\Automatsko-Osvetljenje\Simulation\lm317.asc
X§U1 0 PIR Signal 3V3 N003 N001 N001 3V3 NE555
R1 3V3 PIR 10k
R NC_01 N001 1000k
C N001 0 10µ
C1 N003 0 10n
V1 VBAT 0 7.4
D4 N009 0 LXZ1-PL02
D8 N009 0 LXZ1-PL02
D9 N009 0 LXZ1-PL02
V2 3V3 0 3.3
V4 PIR 0 PULSE(3.3 0 1 50n 50n 0.1 20)
X§U3 N006 N007 0 TDTC114Y
R3 N007 Signal 1k
M1 LM N006 VBAT VBAT BSS84
R2 N006 VBAT 10k
R5 N007 0 10k
R8 3V3 N001 270k
X§U4 N009 N008 LM LT317A
R6 N009 N008 8
C3 LM 0 1µ
R7 N009 0 1k
X§U2 0 PIR OUT555 N004 N005 N002 N002 3V3 NE555
R4 3V3 PIR 10k
C2 N002 0 10µ
C4 N005 0 10n
R10 3V3 N002 270k
V5 N004 0 PULSE(3.3 0 1.5 50n 50n 1 20)
.model D D
.lib C:\Users\DarkOS\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DarkOS\AppData\Local\LTspice\lib\cmp\standard.mos
* T=1.1*R*C
* R100k\nC100u\nT=11s
.tran 15
* BATERIJA
* 167mW -> 0.167W
* 1.25/R13=I
* STLQ50C33R
* AM312
* 1MOmh
* T=1.1*R*C
* R100k\nC100u\nT=11s
* .tran 15
.lib Contrib/Toshiba/BJT/TDTC114Y_enc.lib
.lib LT317A.sub
.lib NE555.sub
.backanno
.end
